US06916819B2
Phenyltrimethylammonium tribromide (3.4 g, 8.91 mmol) in DCM (20 mL) is added dropwise to a solution of 4-oxo-4-thiazol-2-yl-butyric acid ethyl ester (1.9 g, 8.91 mmol) in DCM (30 mL. The mixture is stirred overnight at room temperature. 5% NaHCO3 (40 mL) is added to the mixture. The organic layer is separated and the aqueous layer is extracted with DCM (2×40 mL). The combined organic layers are dried and solvent removed. The residue is purified by column (hexanes/ethyl acetate 3:1) to give 3-bromo-4-oxo-4-thiazol-2-yl-butyric acid ethyl ester.

reactant | Phenyltrimethylammonium tribromide | 8.91 mmol, 3.4 g | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
reactant | 4-oxo-4-thiazol-2-yl-butyric acid ethyl ester | 8.91 mmol, 1.9 g | C(C)OC(CCC(C=1SC=CN1)=O)=O | C9H11NO3S
reactant | NaHCO3 | 40 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-bromo-4-oxo-4-thiazol-2-yl-butyric acid ethyl ester | C(C)OC(CC(C(C=1SC=CN1)=O)Br)=O | C9H10BrNO3S
